US05623073
STEP A: 2-Amino-3-(5-bromo-2-thenoylmethyl)-1-(2-morpholinoethyl)benzimidazole hydrobromide
Dissolve 2.46 g (10 mmol) of 2-amino-1-(2-morpholinoethyl)benzimidazole in 120 ml of acetone with heating. Subsequently, add 5-bromo-2-bromoacetylthiophene. After stirring, leave at room temperature for 3 to 4 hours. The 2-amino-3-(5-bromo-2-thenoylmethyl)-1-(2-morpholinoethyl)benzimidazole hydrobromide precipitate is filtered, washed twice with 20 ml of acetone each time and with ether (20 ml) to obtain 4.7 g of the title compound.

reactant | 2-amino-1-(2-morpholinoethyl)benzimidazole | 10 mmol, 2.46 g | NC1=NC2=C(N1CCN1CCOCC1)C=CC=C2 | C13H18N4O
reactant | 5-bromo-2-bromoacetylthiophene | BrC1=CC=C(S1)C(CBr)=O | C6H4Br2OS
solvent | acetone | 120 ml | CC(=O)C | C3H6O
product | 2-Amino-3-(5-bromo-2-thenoylmethyl)-1-(2-morpholinoethyl)benzimidazole hydrobromide | 4.7 g, Yield: 88% | Br.NC1N(C2=C(N1CCN1CCOCC1)C=CC=C2)CC(C2=CC=C(S2)Br)=O | InChI=1S/C19H23BrN4O2S.BrH/c20-18-6-5-17(27-18)16(25)13-24-15-4-2-1-3-14(15)23(19(24)21)8-7-22-9-11-26-12-10-22;/h1-6,19H,7-13,21H2;1H
